US07235667B2
1-(4-methylthiazol-2-ylsulfonyloxy)-1,2,3-benzotriazole
Under atmosphere of argon, to a solution of 4-methylthiazol-2-sulfonyl chloride in methyl t-butyl ether (0.20 M, 20 ml), 1-hydroxybenzotriazole (549 mg) and triethylamine (0.57 ml) were added under stirring with cooled on ice bath, and the mixture was stirred for 1 hour at room temperature. To the reaction mixture, ethyl acetate was added. The organic layer was washed with water three times, with a saturated aqueous solution of sodium chloride once successively, dried over an anhydrous magnesium sulfate and concentrated to give the compound of the present invention (1.1 g) having the following physical data. NMR: δ 8.03 (dt, J=8.4, 1.0 Hz, 1H), 7.70-6.57 (m, 2H), 7.53 (d, J=1.0 Hz, 1H), 7.46 (ddd, J=8.4, 5.8, 2.0 Hz, 1H), 2.62 (d, J=1.0 Hz, 3H).

reactant | 4-methylthiazol-2-sulfonyl chloride | CC=1N=C(SC1)S(=O)(=O)Cl | C4H4ClNO2S2
reactant | 1-hydroxybenzotriazole | 549 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.57 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methyl t-butyl ether | 0.20 M, 20 ml | C(C)(C)(C)OC | C5H12O
product | 1-(4-methylthiazol-2-ylsulfonyloxy)-1,2,3-benzotriazole | CC=1N=C(SC1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C10H8N4O3S2
